US07205291B2
Allyl (5R,6S)-3-[3-(hydroxymethyl)phenyl]-7-oxo-6-{(1R)-1-[(triethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (250 mg) prepared in the above step, was dissolved in dichloromethane (10 ml), and thereto were added N,N-diisopropylethylamine (14 mg) and methyl isocyanate (276 mg). The mixture was stirred for 1 day, concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform) to give allyl (5R,6S)-3-[3-({[(methylamino)carbonyl]oxy}methyl)phenyl]-7-oxo-6-{(1R)-1-[(triethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (122 mg).

reactant | Allyl (5R,6S)-3-[3-(hydroxymethyl)phenyl]-7-oxo-6-{(1R)-1-[(triethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 250 mg | OCC=1C=C(C=CC1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](CC)(CC)CC)=O)C(=O)OCC=C | C25H35NO5Si
reactant | N,N-diisopropylethylamine | 14 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl isocyanate | 276 mg | CN=C=O | C2H3NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | allyl (5R,6S)-3-[3-({[(methylamino)carbonyl]oxy}methyl)phenyl]-7-oxo-6-{(1R)-1-[(triethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 122 mg | CNC(=O)OCC=1C=C(C=CC1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](CC)(CC)CC)=O)C(=O)OCC=C | C27H38N2O6Si
